US05128465
N-Fluoromethoxyphthalimide
N-hydroxyphthalimide (80 g) and bromofluoromethane (63.2 g) were added to dry dimethyl sulfoxide (350 ml) which had been cooled to 0° C. Potassium carbonate (135 g) was added further, followed by stirring at room temperature for 4 hours. Thereafter, nitrogen gas was introduced for 1 hour. The reaction mixture was added to ice water (800 ml), followed by extraction three times with ethyl acetate (500 ml). After washing the extract with saturated saline, anhydrous magnesium sulfate was added to the extract to dry the same. The solvent was distilled off under reduced pressure. Deposited crystals were washed with isopropyl ether and petroleum ether to obtain the target product (55 g).

reactant | N-hydroxyphthalimide | 80 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | bromofluoromethane | 63.2 g | BrCF | CH2BrF
reactant | Potassium carbonate | 135 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 350 ml | CS(=O)C | C2H6OS
product | N-Fluoromethoxyphthalimide | 55 g | FCON1C(C=2C(C1=O)=CC=CC2)=O | C9H6FNO3
